US04985419
Mercuric acetate (0.80 g) is added to a solution of N-(3-fluorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide neutral fumarate (1.30 g) in acetic acid (20 cc), and the mixture obtained is stirred for 20 hours at a temperature in the region of 20° C. The black suspension obtained is filtered on sintered glass plugged with celite and the yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with ethyl acetate (100 cc) and the organic phase is washed successively with normal sodium hydroxide (2×20 cc) and distilled water (2×20 cc) and with aqueous sodium chloride solution (20 cc) and dried over magnesium sulphate. After filtration, the yellow filtrate is concentrated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and a crude yellow oil (0.90 g) is thereby obtained. This residue is dissolved in hot ethanol (3 cc) and treated with fumaric acid (0.25 g) dissolved in ethanol (2 cc). After 4 hours' cooling to 4° C., the crystallized solid is separated by filtration, washed with cold ethanol (2×5 cc) and then dried at 50° C. under reduced pressure (5 mm Hg; 0.7 kPa) to give N-(3-fluorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide neutral fumarate (0.7 g), m.p. 165° C.

reactant | N-(3-fluorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 1.30 g | FC=1C=C(CNC(=S)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | C27H28FN3S2
reactant | fumaric acid | 0.25 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
solvent | ethanol | 3 cc | C(C)O | C2H6O
solvent | ethanol | 2 cc | C(C)O | C2H6O
product | N-(3-fluorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 0.7 g | FC=1C=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | C27H28FN3OS
